US04962115
A mixture of 4.1 parts of 1-(3-chloropropoxy)-4-fluorobenzene, 4.4 parts of cis-N-(3-hydroxy-4-piperidinyl)-benzamide, 3.8 parts of sodium carbonate, 0.1 parts of potassium iodide and 160 parts of 4-methyl-2-pentanone was stirred and refluxed for 20 hours. The reaction mixture was cooled to room temperature and washed with water. The organic phase was dried, filtered and evaporated. The residue was crystallized from 2-propanol, yielding 4.2 parts (57%) of cis-N-[1-[3-(4-fluorophenoxy)propyl]-3-hydroxy-4-piperidinyl]benzamide; mp. 130.5° C. (compound 72).

reactant | 1-(3-chloropropoxy)-4-fluorobenzene | ClCCCOC1=CC=C(C=C1)F | C9H10ClFO
reactant | cis-N-(3-hydroxy-4-piperidinyl)-benzamide | O[C@@H]1CNCC[C@@H]1NC(C1=CC=CC=C1)=O | C12H16N2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | cis-N-[1-[3-(4-fluorophenoxy)propyl]-3-hydroxy-4-piperidinyl]benzamide | 57% | FC1=CC=C(OCCCN2C[C@H]([C@H](CC2)NC(C2=CC=CC=C2)=O)O)C=C1 | C21H25FN2O3
